US05250546
(1RS,2SR)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol dihydrochloride
A mixture of (1RS,2SR)-2-amino-5-methyl-1-phenylhexan-1-ol (415 mg, 2 mmol) and 1-(3-chloropropyl)piperidine (324 mg, 2 mmol) was melted at 70° C. in a nitrogen atmosphere. The mixture was heated at 110° to 120° C. for 3 hours. After being cooled, the reaction mixture was dissolved with heating in ethanol, followed by addition of concentrated hydrochloric acid (0.2 ml). After the mixture was cooled, precipitated crystals were collected by filtration and washed with ethanol. The crystals were recrystallized from ethanol to obtain 0.27 g of the title compound as white crystals (yield: 33%).

reactant | (1RS,2SR)-2-amino-5-methyl-1-phenylhexan-1-ol | 2 mmol, 415 mg | NC(C(O)C1=CC=CC=C1)CCC(C)C | C13H21NO
reactant | 1-(3-chloropropyl)piperidine | 2 mmol, 324 mg | ClCCCN1CCCCC1 | C8H16ClN
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (1RS,2SR)-5-Methyl-1-phenyl-2-(3-piperidinopropylamino)hexan-1-ol dihydrochloride | 0.27 g, yield: 33% | Cl.Cl.CC(CCC(C(O)C1=CC=CC=C1)NCCCN1CCCCC1)C | InChI=1S/C21H36N2O.2ClH/c1-18(2)12-13-20(21(24)19-10-5-3-6-11-19)22-14-9-17-23-15-7-4-8-16-23;;/h3,5-6,10-11,18,20-22,24H,4,7-9,12-17H2,1-2H3;2*1H
